US05688807
4-Fluoro-5-methyltryptamine hydrochloride was prepared (2.20 g) as described for 5-methyl-7-bromotryptamine hydrochloride in Example 4, except using 3-fluoro-4-methylphenylhydrazine hydrochloride (6.00 g) as starting material.

reactant | 5-methyl-7-bromotryptamine hydrochloride | Cl.CC1=CC(=C2NC=C(CCN)C2=C1)Br
reactant | 3-fluoro-4-methylphenylhydrazine hydrochloride | 6.00 g | Cl.FC=1C=C(C=CC1C)NN
product | 4-Fluoro-5-methyltryptamine hydrochloride | Cl.FC=1C(=CC=C2NC=C(CCN)C12)C | InChI=1S/C11H13FN2.ClH/c1-7-2-3-9-10(11(7)12)8(4-5-13)6-14-9;/h2-3,6,14H,4-5,13H2,1H3;1H
